US08557601B2
1-Hydroxy-6-carboxy-2 (1H)-pyridinone (15.5 g, 0.1 mol) and anhydrous potassium carbonate (27.6 g, 0.2 mol) were mixed with benzyl chloride (15.2 g, 0.12 mol) in methanol (250 mL). The mixture was refluxed for 16 h, filtered, and the filtrate evaporated to dryness. The residue was dissolved in water (50 mL) and acidified with 6 N HCl to pH 2. The white precipitate was isolated by filtration, washed with cold water, and dried in vacuum, to yield 22.3 g (91%) of 1-Benzyloxy-6-carboxy-2 (1H)-pyridinone, mp 176-177° C.

reactant | 1-Hydroxy-6-carboxy-2 (1H)-pyridinone | 0.1 mol, 15.5 g | ON1C(C=CC=C1C(=O)O)=O | C6H5NO4
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 0.12 mol, 15.2 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 250 mL | CO | CH4O
product | 1-Benzyloxy-6-carboxy-2 (1H)-pyridinone | 22.3 g, 91% | C(C1=CC=CC=C1)ON1C(C=CC=C1C(=O)O)=O | C13H11NO4
